US09169205B2
7-Bromo-2,3-dihydrobenzo[1.4]-dioxine-6-carbonitrile
A mixture of 20.0 g (62.6 mmol) of 6,7-dibromo-2,3-dihydrobenzo[1,4]dioxine, 8.50 g (93.9 mmol) CuCN and 13.0 (93.9 mmol) K2CO3 in 300 mL DMF is stirred at 150° C. for 6 d. The reaction is quenched by the addition of water and extracted with EtOAc. The org. layers are combined and washed with water (3×) and sat. aq. NaCl solution. After drying over Na2SO4, the mixture is filtered and the solvent is removed in vacuo. The resulting residue is purified by column chromatography (silica gel, PE/EtOAc 20/1→10/1).

reactant | 6,7-dibromo-2,3-dihydrobenzo[1,4]dioxine | 62.6 mmol, 20.0 g | BrC1=CC2=C(OCCO2)C=C1Br | C8H6Br2O2
reactant | CuCN | 93.9 mmol, 8.50 g | C(#N)[Cu]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 7-Bromo-2,3-dihydrobenzo[1.4]-dioxine-6-carbonitrile | BrC=1C(=CC2=C(OCCO2)C1)C#N | C9H6BrNO2
